US04476311
PREPARATION OF 4-BENZYL-3-PHENYL-MORPHOLIN-5-ONE-2-CARBOXYLIC ACID
9.86 g (0.085 mole) of diglycolic anhydride and 16.5 g of Schiff base (0.085 mole), prepared from benzyldehyde and benzylamine, are refluxed at 140° C. in 220 ml of xylene for 6 hr. After cooling to 0° C. the solid is collected and washed with ether: 14.5 g (54%) mp 170°-9° C. Recrystallization from methylene-chloride (little) and ether gave 11.3 g (43%) of title compound mp 177°-81° C.

reactant | diglycolic anhydride | 0.085 mole, 9.86 g | C1(COCC(=O)O1)=O | C4H4O4
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | xylene | 220 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-BENZYL-3-PHENYL-MORPHOLIN-5-ONE-2-CARBOXYLIC ACID | 11.3 g, 43% | C(C1=CC=CC=C1)N1C(C(OCC1=O)C(=O)O)C1=CC=CC=C1 | C18H17NO4
